US08133909B2
(S)—N-(3,4-Dimethyl-phenyl)-2-hydroxy-2-phenyl-N-(2-thiophen-3-yl-ethyl)-acetamide
In analogy to example 22 step 1 and 26 step 1-2, (3,4-dimethyl-phenyl)-(2-thiophen-3-yl-ethyl)-amine obtained by reacting 2-thiophen-3-yl-ethylamine (commercial) with 4-iodo-o-xylene (commercial) was coupled with (S)-(+)-O-acetyl-L-mandelic acid then hydrolysed to provide the title compound. MS(m/e): 366.2 [M+H]+.

reactant | 2-thiophen-3-yl-ethylamine | S1C=C(C=C1)CCN | C6H9NS
reactant | 4-iodo-o-xylene | IC=1C=C(C(=CC1)C)C | C8H9I
reactant | (S)-(+)-O-acetyl-L-mandelic acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)—N-(3,4-Dimethyl-phenyl)-2-hydroxy-2-phenyl-N-(2-thiophen-3-yl-ethyl)-acetamide | CC=1C=C(C=CC1C)N(C([C@H](C1=CC=CC=C1)O)=O)CCC1=CSC=C1 | C22H23NO2S
